US08580832B2
4-(4-Formyl-2-methoxy-phenoxy)-3-trifluoromethyl-benzonitrile was prepared from vanillin and 4-fluoro-3-trifluoromethylbenzonitrile following General Procedure A. 1H NMR (400 Hz, CDCl3) δ 10.00 (s, 1H), 8.00 (m, 1H), 7.68 (dd, 1H), 7.58-7.53 (m, 2H), 7.29 (d, 1H), 6.75 (d, 1H), 3.83 (s, 3H); LC/MS (m/z) [M+1]+322.1 (calculated for C16H11F3NO3, 322.06).

reactant | vanillin | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | 4-fluoro-3-trifluoromethylbenzonitrile | FC1=C(C=C(C#N)C=C1)C(F)(F)F | C8H3F4N
product | 4-(4-Formyl-2-methoxy-phenoxy)-3-trifluoromethyl-benzonitrile | C(=O)C1=CC(=C(OC2=C(C=C(C#N)C=C2)C(F)(F)F)C=C1)OC | C16H10F3NO3
